US07157488B2
3-(Thiazol-2-yloxy)benzaldehyde
In a sealed tube, combine 2-bromo-thiazole (2.0 ml, 22.2 mmol), 3-hydroxy-benzaldehyde (1.8 g, 15.0 mmol) and potassium carbonate (2.1 g, 15.0 mmol) in dimethylformamide (20 ml). Heat to 100° C. After 48 hours, cool, pour into water (150 ml), and extract with ether. Combine the organic layers and wash sequentially with distilled water and brine and then dry (Na2SO4), filter, and concentrate to give a residue. Chromatograph the residue eluting with 9:1 hexane:EtOAc to give the title compound.

reactant | 2-bromo-thiazole | 22.2 mmol, 2.0 ml | BrC=1SC=CN1 | C3H2BrNS
reactant | 3-hydroxy-benzaldehyde | 15.0 mmol, 1.8 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 15.0 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(Thiazol-2-yloxy)benzaldehyde | S1C(=NC=C1)OC=1C=C(C=O)C=CC1 | C10H7NO2S
